US07994336B2
a) Synthesis of 2-amino-5-m-tolyl-thiazole-4-carboxylic acid methyl ester
This compound was synthesised as 2-methyl-5-m-tolyl-thiazole-4-carboxylic acid methyl ester but using thiourea instead thioacetamide.

reactant | 2-methyl-5-m-tolyl-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1C=1C=C(C=CC1)C)C | C13H13NO2S
reactant | thiourea | NC(=S)N | CH4N2S
reactant | thioacetamide | C(C)(=S)N | C2H5NS
product | 2-amino-5-m-tolyl-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1C=1C=C(C=CC1)C)N | C12H12N2O2S
